data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(NN=CCc2ccccc2)cc(C)c1OC.Cl[Zn]Cl", "products": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC"}, {"reactants": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC", "products": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC.[H+]"}, {"reactants": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2OC)C(=N)C=C1", "products": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(C)c1OC"}, {"reactants": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(C)c1OC", "products": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(C)c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc2[nH]cc(-c3ccccc3)c2c(C)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "O=C1N(C(=O)Cc2cn(C)c3ccccc23)CCCC1(CC)C(=O)C(=[N+]=[N-])C(=O)OC.[Rh]", "products": "O=C1N(CCCC1(C(C(C(OC)=O)=[Rh])=O)CC)C(Cc(cn2C)c3c2cccc3)=O.N#N"}, {"reactants": "O=C1N(CCCC1(C(C(C(OC)=O)=[Rh])=O)CC)C(Cc(cn2C)c3c2cccc3)=O", "products": "O=C(Cc1cn(C)c2ccccc12)N3C4=[O+][C-](C(=O)OC)C(=O)C4(CC)CCC3.[Rh]"}, {"reactants": "O=C(Cc1cn(C)c2ccccc12)N3C4=[O+][C-](C(=O)OC)C(=O)C4(CC)CCC3", "products": "O=C(N1C23OC(C(C2(CCC1)CC)=O)4C(OC)=O)CC53C4N(c6c5cccc6)C"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CF)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(C)c1", "products": "Cc1cc(C)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)cc(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)cc(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)cc(Cl)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(Cl)cc(Cl)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1C.[Pd]", "products": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1C"}, {"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1C", "products": "COc1ccc2c(c1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc2c(c1C)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc2c(c1C)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2(F)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)C(F)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)C(F)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)C(F)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)C(F)C1CC(C(=O)OC)C(=O)C2"}]}
